US06608203B2
2-Phenyl-1-(3,4,5-trifluoro-phenyl)-1,2,3,4-tetrahydroisoquinolin-6-ol
The title compound was prepared by analogy to Example 48 except that 6-methoxy-2-phenyl-1-(3,4,5-trifluoro-phenyl)-1,2,3,4-tetrahydroisoquinoline was used instead of 6-methoxy-1-(4-methoxy-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinoline, and neat CH2Cl2 to 10% MeOH/CH2Cl2 was used as eluent for flash chromatography purification.

reactant | 6-methoxy-2-phenyl-1-(3,4,5-trifluoro-phenyl)-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCN(C(C2=CC1)C1=CC(=C(C(=C1)F)F)F)C1=CC=CC=C1 | C22H18F3NO
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 2-Phenyl-1-(3,4,5-trifluoro-phenyl)-1,2,3,4-tetrahydroisoquinolin-6-ol | C1(=CC=CC=C1)N1C(C2=CC=C(C=C2CC1)O)C1=CC(=C(C(=C1)F)F)F | C21H16F3NO
